US04925853
4-Benzyloxy-7-methyl-2-phenylbenzimidazole
A mixture of 2,3-diamino-4-benzyloxytoluene (5.0 g) and benzaldehyde (5.52 g, 2 mol. equiv.) in xylene (75 ml) was heated under reflux for 3 h, and then left for 18 h at room temperature. The resulting crystalline product was filtered, washed with ether, and recrystallized from ethanol to afford the title compound, 4.13 g, m.p. 221°-224° C.

reactant | 2,3-diamino-4-benzyloxytoluene | 5.0 g | NC1=C(C=CC(=C1N)OCC1=CC=CC=C1)C | C14H16N2O
reactant | benzaldehyde | 2 mol, 5.52 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | xylene | 75 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Benzyloxy-7-methyl-2-phenylbenzimidazole | C(C1=CC=CC=C1)OC1=CC=C(C=2N=C(NC21)C2=CC=CC=C2)C | C21H18N2O
